US06610707B1
Sodium Cycloheptylmethanesulfonate
The subtitle compound was prepared by the method of Preparation 61 from 1-(bromomethyl)cycloheptane [Preparation 66] and sodium sulfite. The crude product was purified by recrystallisation from water to afford sodium cycloheptylmethanesulfonate as a white solid.

reactant | 1-(bromomethyl)cycloheptane | BrCC1CCCCCC1 | C8H15Br
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
product | sodium cycloheptylmethanesulfonate | C1(CCCCCC1)CS(=O)(=O)[O-].[Na+] | InChI=1S/C8H16O3S.Na/c9-12(10,11)7-8-5-3-1-2-4-6-8;/h8H,1-7H2,(H,9,10,11);/q;+1/p-1
